Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of hypertension, CVA with no residual deficits who 
presented s/p fall.  

Spoke to patient's daughter who was not at home. She received a 
phone call from building manager that her mother had fallen in 
the hall of the building. Daughter arrived after 15 minutes and 
patient was diaphoretic. It is unclear if she had loss of 
consciousness as fall was unwitnessed.  

She has been feeling unwell since ___. She was feeling very 
fatigued and was lying in bed all day. She was reportedly 
shaking and said she felt very cold. She felt chilled and her 
lips were blue and she felt short of breath. She put on many 
sweaters but then began to sweat profusely. Daughter called EMS 
but they arrived and on evaluation blood pressure was fine and 
heart rate was normal. Patient did not want to go to the 
hospital so they did not transport her. On ___ and ___ 
she was also complaining of urinary frequency, but starting 
yesterday urine output declined to below normal. She also had 
loss of appetite and did not eat yesterday. She was not 
complaining of any pain. She has had dry heaving but no 
vomiting. Her daughter thinks she had a fever on ___ and 
___ but did not take her temperature. She has not been 
coughing. No diarrhea.  

Daughter thinks patient is downplaying her symptoms and 
downplaying pain in order to avoid burdening her.  

Overall over the past three months she has felt progressively 
more fatigued. Her family has noticed that her memory is less 
clear than it was previously and is forgetful. She is usually 
oriented X 3.  

In the ED, initial vitals were: 97.8 60 164/88 16 99% RA  
Labs notable for ___, leukocytosis to 17.1 with bandemia, 
thrombocytopenia. UA with large leukocytes  
Imaging notable for CT C spine without fracture or malalignment, 
CT head without acute abnormality, CXR without evidence of 
infection  
Patient was given: 500cc NS, 1g IV ceftriaxone  
On the floor, initial vitals were 98.0 149/64 59 18 100% Ra. 
Attempted to interview patient with a phone interpreter but she 
repeatedly pushed the phone away, saying "thank you" and later 
"bye" in ___. Above history was obtained from her daughter.  

 
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
Hypertension  
Heart block s/p pacemaker placement ___  
CVA X 2 most recent treated in ___ ___ years ago. Had 
hemiparesis and aphasia, received ? thrombolysis with no 
residual deficits  
Hypertriglyceridemia  
Congenital single kidney  
 
Social History:
___
Family History:
no family history of cancer 
 
Physical Exam:
ADMISSION EXAM:
Vital Signs: 98.0 149/64 59 18 100% Ra  
General: Alert, no acute distress  
HEENT: Sclera anicteric  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
Abdomen: Soft, non-tender, non-distended  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, moving all extremities  
Access: peripherals  

DISCHARGE EXAM:
VS: 98.2PO 127 / 77 60 18 99 RA 
GEN: sitting up eating breakfast, alert, no acute distress  
HEENT:  NCAT  
CV: RRR, normal S1 + S2, no M/R/G
PULM: CTAB, no wheezes  
ABD: S/NT/ND, no suprapubic tenderness, +BS 
GU: No foley  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: grossly intact, gait slowed, moving all extremities
 
Pertinent Results:
ADMISSION LABS:
___ 06:04PM BLOOD WBC-17.1*# RBC-4.81 Hgb-14.8 Hct-44.3 
MCV-92 MCH-30.8 MCHC-33.4 RDW-13.2 RDWSD-44.8 Plt Ct-84*
___ 06:04PM BLOOD Neuts-86* Bands-7* Lymphs-3* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-15.90* 
AbsLymp-0.51* AbsMono-0.68 AbsEos-0.00* AbsBaso-0.00*
___ 06:04PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL
___ 06:04PM BLOOD ___ PTT-29.9 ___
___ 06:04PM BLOOD Glucose-138* UreaN-48* Creat-2.3*# Na-135 
K-3.9 Cl-99 HCO3-19* AnGap-21*
___ 06:04PM BLOOD ALT-11 AST-20 LD(LDH)-244 AlkPhos-66 
TotBili-2.1* DirBili-0.4* IndBili-1.7
___ 06:04PM BLOOD cTropnT-<0.01
___ 06:04PM BLOOD Lipase-16
___ 06:04PM BLOOD Albumin-3.7 Calcium-8.9 Phos-2.7 Mg-2.1
___ 06:04PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 06:15PM BLOOD Lactate-2.0
___ 09:00PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 09:00PM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 09:00PM URINE RBC-25* WBC->182* Bacteri-MOD Yeast-MANY 
Epi-0
___ 09:00PM URINE WBC Clm-MANY Mucous-RARE

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-7.1 RBC-4.00 Hgb-12.1 Hct-37.2 MCV-93 
MCH-30.3 MCHC-32.5 RDW-13.1 RDWSD-44.6 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-86 UreaN-22* Creat-1.5* Na-142 
K-4.1 Cl-107 HCO3-20* AnGap-19
___ 06:00AM BLOOD ALT-10 AST-15 AlkPhos-58 TotBili-0.5 
DirBili-<0.2 IndBili-0.5
___ 06:00AM BLOOD Calcium-8.4 Phos-2.6* Mg-2.1

MICRO:
___ BCx:
Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___ 
9:30AM. 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S).

___ UCx:
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
___ CT C-spine w/o contrast: 
No acute fracture or subluxation.

___ CT head w/o contrast: 
No acute intracranial abnormality.

___ CXR: 
Cardiomegaly without superimposed acute cardiopulmonary process.

STUDIES:
___ ECG: Artifact is present. Regular ventricular pacing 
with probable underlying atrial fibrillation. No previous 
tracing available for comparison.

___ ECG: Atrial fibrillation with ventricular pacing. No 
previous tracing available for comparison. 

___ ECG: Atrial fibrillation with ventricular pacing. No 
diagnostic change compared to the previous tracing.

___ Echocardiogram: The left atrium is elongated. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>55%). There is no 
ventricular septal defect. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Moderate to 
severe [3+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. [In the setting of at 
least moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] There is an anterior space 
which most likely represents a prominent fat pad.
 
Brief Hospital Course:
___ w/ HTN, CHB (s/p PPM), CVA, congenital single kidney 
admitted with generalized malaise and recent fall, found to have 
E. Coli bacteremia (secondary to UTI, initially treated with IV 
ceftriaxone) c/b ___ and thrombocytopenia. The patient improved 
with antibiotics and improved PO intake, having negative blood 
cultures and downtrending creatinine. She grew pan-sensitive E. 
Coli from both blood and urine cultures. The patient was found 
to have thrombocytopenia which was attributed to the bacteremia. 
Her echo showed EF > 55%, mod-severe tricuspid regurgitation, 
and pulmonary HTN. She will be discharged to complete two weeks 
of antibiotics from her first negative culture (d1 = ___, 
end = ___. She was also noted to have thrush.

ACTIVE ISSUES:
# E. coli bacteremia and cystitis: The patient had marked 
leukocytosis with bandemia but was not hypotensive on admission. 
She complained of urinary frequency, anorexia, fatigue, and 
subjective fevers/chills during the several days leading up to 
presentation. On the day of admission her blood cultures grew E. 
Coli and her urine cultures subsequently grew this as well. The 
patient was empirically initiated on ceftriaxone, which was 
changed to ciprofloxacin upon bacterial sensitivity 
(pan-sensitive). She was well appearing and had 48-hours of 
negative blood cultures at the time of her discharge. She will 
complete a total 2-week course of antibiotics (d1 = ___, 
d14 = ___ and follow-up as an outpatient.

# Pre-syncope and fall: The patient had a fall without loss of 
consciousness, and had negative head and neck imaging. A syncope 
workup was largely negative. This episode was thought to be 
likely vasovagal or orthostatic in setting of acute illness. She 
does have significant cardiac history, but telemetry has been 
reassuring. Cardiology/EP was unable to interrogate pacemaker 
because they could not determine device based on compatibility 
with available hardware/software. Echo shows EF of >55% with 
mod-severe tricuspid regurgitation and pulmonary HTN. She should 
follow up with her PCP and cardiologist as an outpatient for 
further workup of her echo findings. She was seen by physical 
therapy, who recommended home ___ upon discharge.

# Acute kidney injury: Baseline Cr 0.8-1.2 with Cr 2.3 on 
admission. Most concerning for pre-renal azotemia in setting of 
acute illness. On admission any nephrotoxic medications were 
held, including her losartan. She received 1.5L NS between the 
___ ED and floor when she first arrived. With appropriate PO 
intake the patient's Cr was 1.5 and downtrending at the time of 
discharge.

# Thrombocytopenia: Thrombocytpoenia of unclear origin, but most 
likely secondary to acute illness with bacteremia. The patient 
had no known drug exposures, no evidence of liver disease, no 
significant history of alcohol abuse and there is very low 
suspicion for HIT. She had no signs of active bleeding during 
her admission and her platelets were uptrending at the time of 
discharge.

# Thrush: The patient was found to have oral thrush and was 
started on nystatin S-S as an inpatient. She will continue this 
through ___ and may seek further treatment as an outpatient.

# Wheezing: The patient had wheezing on exam ___. No clear hx 
of COPD/Asthma but has been on duonebs. Resolved at the time of 
discharge, but may consider doing PFTs as outpatient for further 
work-up.

CHRONIC ISSUES:
# Hypertension: The patient's home losartan was held given 
active infection. This can likely be restarted by outpatient 
provider once her antibiotic course is completed. 

TRANSITIONAL ISSUES:
- new medications: ciprofloxacin 500mg PO daily x 13 days (last 
day ___, nystatin swish and swallow through ___. 
- Please have basic labs rechecked to ensure Cr at baseline at 
outpatient follow-up
- Consider further thrombocytopenia workup if platelets 
persistently low upon recheck
- Obtain PFTs as outpatient in setting of noted wheezing
- Recommend referral to cardiology for management of pacemaker 
from ___
- Contact: ___ (daughter) ___
- Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q24H Duration: 13 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Daily Disp 
#*12 Tablet Refills:*0 
2.  Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
Swish in the mouth and retain for as long as possible (several 
minutes) before swallowing 
RX *nystatin 100,000 unit/mL 5 mL by mouth four times a day 
Refills:*0 
3.  Losartan Potassium 100 mg PO DAILY  
4.Rolling walker
Dx: GNR Bacteremia, UTI  B96.20
Prognosis: Good
Duration 13 mo.  
5.Outpatient Physical Therapy
ICD 10: R26.9

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- E. coli bacteremia
- Pre-syncope
- Wheezing
- Acute kidney injury
- Thrombocytopenia

Secondary issues:
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was out pleasure caring for you while you were at ___.

Why did I come to the hospital?
- You were feeling unwell and came to the hospital after having 
a fall?

What was done for me while at the hospital?
- You were checked to make sure you did not have a heart problem 
which caused your fall.
- You were found to have a bladder infection and treated with 
antibiotics.
- You were found to have a fungal infection in your mouth. You 
were started on a seven-day course of Nystatin, an antifungal 
medication. 
- You had some mild kidney injury, but with better food and 
fluid intake your kidneys improved.

What should I do when I go home?
- Please take your medications as instructed.
- Please keep your follow up appointment with your doctor.
- Please return to the hospital if you feel unwell or have 
another fall.
- We recommend that you been seen by a cardiologist because of 
your pacemaker. 

Thank you for allowing ___ to participate in your care.

Best regards,
Your ___ Care Team
 
Followup Instructions:
___